US06399629B1
(B) trans-4-Aminomethyl-N-tert-Butoxycarbonyl-L-Proline Methyl Ester
A mixture of N-tert-butoxycarbonyl-trans-4-cyano-L-proline methyl ester (A, 197 mg) and Raney-Ni (100 mg) in ethanol (6 mL) was stirred at room temperature for 21 hr under hydrogen. The catalysts were removed by filtration and washed with ethanol. The filtrate was evaporated in vacuo to give the title compound (204 mg).

reactant | N-tert-butoxycarbonyl-trans-4-cyano-L-proline methyl ester | COC([C@H]1N(C[C@@H](C1)C#N)C(=O)OC(C)(C)C)=O | C12H18N2O4
solvent | ethanol | 6 mL | C(C)O | C2H6O
catalyst | Ni | 100 mg | [Ni] | Ni
product | trans-4-Aminomethyl-N-tert-Butoxycarbonyl-L-Proline Methyl Ester | 204 mg | COC([C@H]1N(C[C@@H](C1)CN)C(=O)OC(C)(C)C)=O | C12H22N2O4
